US07241885B2
The reaction mixture containing imipenem obtained at step (d) Example 1 was stirred with dichloromethane (900 ml) maintaining pH between 7.0 to 8.0 and the aqueous layer separated. The aqueous portion was degassed to remove dichloromethane and given activated carbon treatment. The filtered aqueous solution was mixed with isopropanol (400 ml) and stirred at 5-10° C. for 3 hours. The crystalline product so obtained was filtered, washed with isopropropanol followed by acetone and dried at 35-40° C. for 1 hour to obtain crystalline imipenem monohydrate (9.0 g, purity 99% by HPLC).

reactant | imipenem | C[C@H]([C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)SCCNC=N)O | C12H17N3O4S
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | imipenem monohydrate | 9.0 g | C[C@H]([C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)SCCN=CN)O.O | InChI=1S/C12H17N3O4S.H2O/c1-6(16)9-7-4-8(20-3-2-14-5-13)10(12(18)19)15(7)11(9)17;/h5-7,9,16H,2-4H2,1H3,(H2,13,14)(H,18,19);1H2/t6-,7-,9-;/m1./s1
